US08110581B2
Step 5. 2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride
Hydrogen chloride (2.0 mL, 4.0 M in 1,4-dioxane) was added to a solution of tert-butyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate (0.10 g) in ethyl acetate (0.5 mL) at room temperature and the mixture was stirred for 1 h. The solvent was then removed under vacuum to give the product. LC-MS: 253.2 (M+H)+.

reactant | Hydrogen chloride | 4.0 M, 2.0 mL | Cl | ClH
reactant | tert-butyl 2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]decane-7-carboxylate | 0.10 g | O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CN(CCC2)C(=O)OC(C)(C)C)=O | C19H32N2O4
solvent | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
product | 2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one hydrochloride | Cl.O[C@H]1CC[C@H](CC1)N1C(C2(CC1)CNCCC2)=O | InChI=1S/C14H24N2O2.ClH/c17-12-4-2-11(3-5-12)16-9-7-14(13(16)18)6-1-8-15-10-14;/h11-12,15,17H,1-10H2;1H/t11-,12+,14?;
